### PR TITLE
[Merged by Bors] - chore: Add limit spelling variation

### PR DESCRIPTION
**Pull request by PatrickMassot**
Adding `Tendsto (fun n : ℕ ↦ 1/(n : ℝ)) atTop (𝓝 0)`. We already have an equivalent statement but it is very hard to find and I've seen several students struggling to find it.

I also took the opportunity to fix mapsto arrows in this file, but `tendsto_one_div_atTop_nhds_0_nat` is the only new content.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by urkud** [comment]
Please merge master.

File: Mathlib/Analysis/SpecificLimits/Basic.lean [hunk 1]
```diff
@@ -28,40 +28,43 @@ open Classical Topology Nat BigOperators uniformity NNReal ENNReal
...
 variable {α : Type*} {β : Type*} {ι : Type*}
 
-theorem tendsto_inverse_atTop_nhds_0_nat : Tendsto (fun n : ℕ => (n : ℝ)⁻¹) atTop (𝓝 0) :=
+theorem tendsto_inverse_atTop_nhds_0_nat : Tendsto (fun n : ℕ ↦ (n : ℝ)⁻¹) atTop (𝓝 0) :=
   tendsto_inv_atTop_zero.comp tendsto_nat_cast_atTop_atTop
 #align tendsto_inverse_at_top_nhds_0_nat tendsto_inverse_atTop_nhds_0_nat
 
-theorem tendsto_const_div_atTop_nhds_0_nat (C : ℝ) : Tendsto (fun n : ℕ => C / n) atTop (𝓝 0) := by
+theorem tendsto_one_div_atTop_nhds_0_nat : Tendsto (fun n : ℕ ↦ 1/(n : ℝ)) atTop (𝓝 0) := by
+  simpa using tendsto_inverse_atTop_nhds_0_nat
```
Comment (urkud) [inline Mathlib/Analysis/SpecificLimits/Basic.lean:36]: Why not prove the next lemma first, then reuse it here? You won't need `simpa` in this case.

Comment (PatrickMassot) [reply Mathlib/Analysis/SpecificLimits/Basic.lean]: I didn't  notice the next lemma! Now I'm really confused that `exact?` cannot find this.
